US06414145B1
A mixture of 2-[2-(4-fluorophenyl)ethyl]-5-[(E)-2-(4-fluorophenyl)-3-(imidazol-1-yl)prop-1-en-1-yl]benzoic acid (0.3 g; 0.67 mmol), EDC (0.154 g; 0.8 mmol), HOBT (0.108 g; 0.8 mmol), DMAP (0.090 g; 0.74 mmol), L-methionine methyl ester hydrochloride (0.2 g; 1 mmol) and N-Methylmorpholine (110 μl; 1 mmol) in dichloromethane (20 ml) was stirred at room temperature overnight. The organic phase was washed with aqueous sodium bicarbonate, dried and evaporated. The residue was purified by flash chromatography. eluting with a gradient of dichloromethane/ethanol (1-3%) to give methyl (2S)-2-{5-[(E)-2-(4-fluorophenyl)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(2-(4-fluorophenyl)ethyl)benzamido}-4-methylsulfanylbutyrate as a white solid foam Yield=50%.

reactant | 2-[2-(4-fluorophenyl)ethyl]-5-[(E)-2-(4-fluorophenyl)-3-(imidazol-1-yl)prop-1-en-1-yl]benzoic acid | 0.67 mmol, 0.3 g | FC1=CC=C(C=C1)CCC1=C(C(=O)O)C=C(C=C1)\C=C(\CN1C=NC=C1)/C1=CC=C(C=C1)F | C27H22F2N2O2
reactant | EDC | 0.8 mmol, 0.154 g
reactant | HOBT | 0.8 mmol, 0.108 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | L-methionine methyl ester hydrochloride | 1 mmol, 0.2 g | Cl.COC([C@@H](N)CCSC)=O
reactant | N-Methylmorpholine | 1 mmol, 110 μl | CN1CCOCC1 | C5H11NO
catalyst | DMAP | 0.74 mmol, 0.090 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl (2S)-2-{5-[(E)-2-(4-fluorophenyl)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(2-(4-fluorophenyl)ethyl)benzamido}-4-methylsulfanylbutyrate | FC1=CC=C(C=C1)\C(=C/C=1C=CC(=C(C(=O)N[C@H](C(=O)OC)CCSC)C1)CCC1=CC=C(C=C1)F)\CN1C=NC=C1 | C33H33F2N3O3S
